US05210239
1-Methoxymethyloxy-3,4,5-trimethoxyphenol
25 g of 3,4,5-trimethoxyphenol was dissolved in 100 ml of DMF, and 7.1 g of sodium hydride, (55% oil suspension) was added thereto and cooled by ice while stirring. Then, 12.4 ml of methoxymethyl chloride was added thereto with ice cooling, and the mixture was stirred at room temperature for 30 min. The reaction mixture was poured into ice water and extracted with ethyl acetate. The organic phase was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off. The residue was purified by silica gel column chromatography (eluent; n-hexane : ethyl acetate=85 : 15) to prepare 30.4 g of the product compound as a colorless oleaginous substance.

reactant | 3,4,5-trimethoxyphenol | 25 g | COC=1C=C(C=C(C1OC)OC)O | C9H12O4
reactant | sodium hydride | 7.1 g | [H-].[Na+]
reactant | methoxymethyl chloride | 12.4 ml | COCCl | C2H5ClO
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 1-Methoxymethyloxy-3,4,5-trimethoxyphenol | COCOC1(CC(=C(C(=C1)OC)OC)OC)O | C11H18O6
